US04584295
A mixture of 16.05 g (0.10 mol) of 6-chloromethyl-uracil, 9.85 g (0.12 mol) of sodium acetate and 0.3 g of sodium iodide in 50 ml of glacial acetic acid is heated at reflux for 20 minutes. The mixture is subsequently cooled to room temperature and filtered. The filtrate is treated with 250 ml of diethyl ether and the resulting crystals are filtered off. The combined crystallizate is added to 200 ml of water and thus liberated from the residual salts. 11.3 g of 6-acetoxymethyl-uracil are isolated by filtration.

reactant | 6-chloromethyl-uracil | 0.10 mol, 16.05 g | ClCC1=CC(NC(N1)=O)=O | C5H5ClN2O2
reactant | sodium acetate | 0.12 mol, 9.85 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | sodium iodide | 0.3 g | [I-].[Na+]
product | 6-acetoxymethyl-uracil | 11.3 g | C(C)(=O)OCC1=CC(NC(N1)=O)=O | C7H8N2O4
